### PR TITLE
Remove mathlib dependency

### PR DESCRIPTION
**Pull request by zhassan-aws**
Remove mathlib from dependencies and fix all proofs.

Call outs: I had to add `batteries` as a dependency, but all definitions/theorems needed from `batteries` (e.g. `List.IsPrefix`) have been upstreamed in https://github.com/leanprover/lean4/releases/tag/v4.11.0-rc1 (e.g. https://github.com/leanprover/lean4/pull/4836), so we should be able to get rid of the `batteries` dependency as well once v4.11.0 is released.

By submitting this pull request, I confirm that my contribution is made under the terms of the Apache 2.0 and MIT licenses.

### CODE REVIEW

**Comment by BrunoDutertre** [comment]
Maybe convert to `lakefile.toml` instead of `lakefile.lean`.
This command can do it:
```
 lake translate-conflig toml
```

File: RustLeanModels/Basic.lean [hunk 1]
```diff
@@ -13,19 +12,23 @@ abbrev Str := List Char
 
 --LOGIC
 
-lemma exists_minima_prop_nat {p: Nat → Prop} : (∃ x , p x) → ∃ m, (p m) ∧ (∀ n, p n → m ≤ n) :=by
+theorem exists_minima_prop_nat {p: Nat → Prop} : (∃ x , p x) → ∃ m, (p m) ∧ (∀ n, p n → m ≤ n) :=by
   intro gn; obtain ⟨n, gn⟩ := gn
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: Small simplification: you can do it in one step.
```
   intro ⟨n, gn⟩
```

File: RustLeanModels/Basic.lean [hunk 2]
```diff
@@ -13,19 +12,23 @@ abbrev Str := List Char
...
-  induction n using Nat.strong_induction_on
+  induction n using Nat.strongInductionOn
   rename_i n ind
   by_cases (∀ m < n, ¬ p m ); rename_i gm
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: Small simplification here to: you can give a name to the `by_case ...` to avoid having `rename_i` twice in each branch:
```
    by_cases gm: ∀ m < n, ¬ p m
```

File: RustLeanModels/Basic.lean [hunk 3]
```diff
@@ -13,19 +12,23 @@ abbrev Str := List Char
...
-
-lemma imp_eq_not_or: (p → q) ↔  (¬ p ∨ q) :=by
+    have gm := gm x
+    simp only [gx, not_true_eq_false, imp_false, Nat.not_lt] at gm
+    exact gm
+  · rename_i gm;
+    simp only [Classical.not_forall, not_imp, Classical.not_not] at gm
+    obtain ⟨m,gm⟩:=gm
+    simp only [exists_prop, true_implies] at gm
+    have ind := ind m gm.left gm.right; obtain ⟨ x, gx ⟩ := ind
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: Same trick here. Line 28 can be simplified to
```
      have ⟨ x, gx ⟩ := ind m gm.left gm.right
```

File: RustLeanModels/Basic.lean [hunk 4]
```diff
@@ -13,19 +12,23 @@ abbrev Str := List Char
...
+    exists x
+
+theorem imp_eq_not_or: (p → q) ↔  (¬ p ∨ q) :=by
   constructor ;
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: For this whole proof:  lines 32 to 36, we could use `simp_all` rather than `simp only [...]` since the `simp` close the branches. This would simplify the proof a bit:
```
    constructor
    . intro g; by_cases p <;> simp_all
    . intro g; cases g <;> simp_all 
```

File: RustLeanModels/Basic.lean [hunk 5]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
   unfold unique at g1; exact g1 x y g2 g3
 
 @[simp]
-lemma not_sym :  ¬ x = y →  ¬ y = x := by intro g; by_contra; rename_i g1; symm at g1; contradiction
+theorem not_sym :  ¬ x = y →  ¬ y = x := by intro g; intro h; have h := Eq.symm h; contradiction
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: Could combine the two `intro's (and conclude with simp_all?)
```
theorem not_sym : ¬ x = y →  ¬ y = x := by intro g h; simp_all
```

File: RustLeanModels/Basic.lean [hunk 6]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
 
-lemma exists_EQ {α: Type} {p q : α → Prop}: (∀ x, p x  ↔ q x) → ((∃ y, p y) ↔ (∃ y, q y)) :=by
+theorem exists_EQ {α: Type} {p q : α → Prop}: (∀ x, p x  ↔ q x) → ((∃ y, p y) ↔ (∃ y, q y)) :=by
   intro g; constructor
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean]: I think `by simp_all` would be enough here.

File: RustLeanModels/Basic.lean [hunk 7]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
-  intro gy ; obtain ⟨y,gy⟩ := gy ; rw[g y] at gy ; use y
-  intro gy ; obtain ⟨y,gy⟩ := gy ; rw[← g y] at gy ; use y
-
-lemma not_in_forall_not_eq {s: List α} (h: ∀ x ∈ s, a ≠ x) : a ∉ s :=by
-  induction s; simp; rename_i head tail ind
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:63]: induction is overkill here. We could do this instead:
```
theorem not_in_forall_not_eq {s: List α} (h: ∀ x ∈ s, a ≠ x) : a ∉ s := by  
  intro g; have := h a g; contradiction
```

File: RustLeanModels/Basic.lean [hunk 8]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
-lemma cases_max : x = Nat.max m n → (x=m) ∨ (x=n) :=by
-  by_cases m ≤ n ; intro g; rename_i g0; simp only [g0, max_eq_right] at g; simp only [g, or_true]
-  intro g; rename_i g0; simp only [not_le] at g0; have g0:= le_of_lt g0;
-  simp only [g0, max_eq_left] at g; simp only [g, true_or]
-
-lemma max_add_right : Nat.max a (b+c) ≤ c + Nat.max a b :=by
-  by_cases a ≤ b ; rename_i g; simp only [g, max_eq_right, max_le_iff]; omega
-  rename_i g; simp only [not_le] at g; have g:= le_of_lt g;
-  simp only [g, max_eq_left, max_le_iff,le_add_iff_nonneg_left, _root_.zero_le, true_and, ge_iff_le]
+theorem cases_max : x = Nat.max m n → (x=m) ∨ (x=n) :=by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:63]: We could  simplify this proof by using `Nat.max_def`:
```
theorem cases_max : x = Nat.max m n → x = m ∨ x = n := by
  rw [Nat.max, Nat.max_def]
  split <;> simp_all
```

File: RustLeanModels/Basic.lean [hunk 9]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
+  by_cases m ≤ n ; intro g; rename_i g0; simp only [g0, Nat.max_eq_right] at g; simp only [g, or_true]
+  intro g; rename_i g0; simp only [Nat.not_le] at g0; have g0:= Nat.le_of_lt g0;
+  simp only [g0, Nat.max_eq_left] at g; simp only [g, true_or]
+
+theorem max_add_right : Nat.max a (b+c) ≤ c + Nat.max a b :=by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:67]: The same trick would work here too (more or less):
```
theorem max_add_right : Nat.max a (b + c) ≤ c + Nat.max a b := by
  simp only [Nat.max, Nat.max_def]
  split <;> split <;> omega
```

File: RustLeanModels/Basic.lean [hunk 10]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
+  by_cases a ≤ b ; rename_i g; simp only [g, Nat.max_eq_right, Nat.max_le]; omega
+  rename_i g; simp only [Nat.not_le] at g; have g:= Nat.le_of_lt g;
+  simp only [g, Nat.max_eq_left, Nat.max_le, true_and, ge_iff_le]
   omega
 
-
-lemma max_le_of_right_le: n ≤ k → Nat.max m n ≤ Nat.max m k := by
+theorem le_max_iff : a ≤ Nat.max b c ↔ a ≤ b ∨ a ≤ c := by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:71]: Another case:
```
theorem le_max_iff : a ≤ Nat.max b c ↔ a ≤ b ∨ a ≤ c := by
  rw [Nat.max, Nat.max_def]
  split <;> omega
```

Comment (BrunoDutertre) [reply RustLeanModels/Basic.lean:71]: Looks like all the theorem involving max could be proved in a similar way.

File: RustLeanModels/Basic.lean [hunk 11]
```diff
@@ -52,44 +55,61 @@ theorem Eq_iff_of_unique_and_mp : unique p → (∀ y, (x = y) → p y) → (∀
...
-lemma map_add_sub {l: List  Nat}:  List.map (fun x => x - c) (List.map (fun x => x + c) l) = l := by
+theorem map_add_sub {l: List  Nat}:  List.map (fun x => x - c) (List.map (fun x => x + c) l) = l := by
   simp only [map_map]
   have : ((fun x => x - c) ∘ fun x => x + c) = (fun x => x) :=by
-    ext x; simp only [Function.comp_apply, add_tsub_cancel_right]
+    ext x; simp only [Function.comp_apply, Nat.add_sub_cancel_right]
   rw[this]; simp only [map_id']
 
-lemma map_sub_add {l: List Nat} (g: ∀ x ∈ l, x ≥ c): List.map (fun x => x + c) (List.map (fun x => x - c) l) = l := by
+theorem map_sub_add {l: List Nat} (g: ∀ x ∈ l, x ≥ c): List.map (fun x => x + c) (List.map (fun x => x - c) l) = l := by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:86]: Could be simplified a bit by starting with `induction l`:
```
theorem map_sub_add {l: List Nat} (g: ∀ x ∈ l, x ≥ c): List.map (fun x => x + c) (List.map (fun x => x - c) l) = l := by
  induction l
  case nil =>
    simp
  case cons x tail ih =>
    simp at *
    constructor
    . omega
    . apply ih
      exact g.right
```

Comment (BrunoDutertre) [reply RustLeanModels/Basic.lean:86]: We should also try to be consistent in the use of `{}` vs `()` and in the variable declarations:
```
theorem map_add_sub (l: List Nat) (c: Nat): ...

theorem map_sub_add {l: List Nat} {c: Nat} (g: ∀ x ∈ l, x ≥ c): ...

theorem map_add_comm (l: List Nat) (a b: Nat): ...

theorem map_sub_comm (l: List Nat) (a b: Nat): ...
```

Comment (BrunoDutertre) [reply RustLeanModels/Basic.lean:86]: maybe we could have a separate PR to go through all theorems and make sure we're consistent?

File: RustLeanModels/Basic.lean [hunk 12]
```diff
@@ -100,11 +120,11 @@ lemma map_sub_add {l: List Nat} (g: ∀ x ∈ l, x ≥ c): List.map (fun x => x
...
 
-lemma map_add_comm {l: List Nat} : List.map (fun x => x + a) (List.map (fun x => x + b) l) = List.map (fun x => x + b) (List.map (fun x => x + a) l) :=by
-  simp only [map_map, comp_add_right]; have: (a+b) = (b+a) := by omega
-  rw[this]
+theorem map_add_comm {l: List Nat} : List.map (fun x => x + a) (List.map (fun x => x + b) l) = List.map (fun x => x + b) (List.map (fun x => x + a) l) :=by
+  simp only [map_map, map_inj_left, Function.comp_apply]
+  omega
 
-lemma map_sub_comm : List.map (fun x: Nat=> x-a) (List.map (fun x=> x-b) l) = List.map (fun x=> x-b) (List.map (fun x=> x-a) l) :=by
+theorem map_sub_comm : List.map (fun x: Nat=> x-a) (List.map (fun x=> x-b) l) = List.map (fun x=> x-b) (List.map (fun x=> x-a) l) :=by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:100]: The proof of `map_add_com` also works for `map_sub_comm` (and it's simpler).

File: RustLeanModels/Basic.lean [hunk 13]
```diff
@@ -120,195 +140,179 @@ def monotone (l: List Nat) := match l with
   |[] => true
   |h::t => (∀ m ∈ t, h ≤ m) ∧ monotone t
 
-lemma map_sub_monotone: monotone l → monotone (List.map (fun x => x -k ) l) :=by
+theorem map_sub_monotone: monotone l → monotone (List.map (fun x => x -k ) l) :=by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:114]: Optional: In proofs by induction, use `case nil` `case cons ...` to make things more readable?

```
theorem map_sub_monotone: monotone l → monotone (List.map (fun x => x - k) l) := by
  induction l
  case nil =>
    simp
  case cons y l' ih =>
    simp [monotone]
    intro le mon
    simp only [ih mon, and_true]
    intro a ha
    exact Nat.sub_le_sub_right (le a ha) k
```

File: RustLeanModels/Basic.lean [hunk 14]
```diff
@@ -120,195 +140,179 @@ def monotone (l: List Nat) := match l with
...
   rename_i h t ind
   unfold monotone
   simp only [Bool.decide_and, Bool.decide_eq_true, Bool.and_eq_true, decide_eq_true_eq, map_cons,
-    mem_map, tsub_le_iff_right, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
+    mem_map, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
   intro g g1; simp only [ind g1, and_true]
   intro a ga ; have ga:= g a ga; omega
 
-lemma list_nat_zero_to_aux_para1_sub : list_nat_zero_to_aux n a = List.map (fun x => x - b) (list_nat_zero_to_aux n (a+b)):=by
+theorem list_nat_zero_to_aux_para1_sub : list_nat_zero_to_aux n a = List.map (fun x => x - b) (list_nat_zero_to_aux n (a+b)):=by
```
Comment (BrunoDutertre) [inline RustLeanModels/Basic.lean:137]: Same thing here for proofs by induction on `n`?

```
theorem list_nat_zero_to_aux_para1_sub : list_nat_zero_to_aux n a = List.map (fun x => x - b) (list_nat_zero_to_aux n (a+b)) := by
  induction n generalizing a b
  case zero =>
    simp [list_nat_zero_to_aux]
  case succ n' ih =>
    simp only [list_nat_zero_to_aux, map_cons, Nat.add_sub_cancel_right, cons.injEq, true_and]
    rw [ih (b := b)]
    have : a + b + 1 = (a + 1) + b:= by omega
    rw [this]
```

File: RustLeanModels/Basic.lean (hunk 1 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: Indeed!

File: RustLeanModels/Basic.lean (hunk 2 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: TIL! Done.

File: RustLeanModels/Basic.lean (hunk 3 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: Done.

File: RustLeanModels/Basic.lean (hunk 4 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: Done. Do you think `simp_all` could slow things a bit? I tend to avoid using it, but it seems safe for this theorem.

File: RustLeanModels/Basic.lean (hunk 5 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: Done

File: RustLeanModels/Basic.lean (hunk 6 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean]: Indeed.

File: RustLeanModels/Basic.lean (hunk 7 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:63]: Nice!

File: RustLeanModels/Basic.lean (hunk 8 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:63]: Done.

File: RustLeanModels/Basic.lean (hunk 9 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:67]: Done.

File: RustLeanModels/Basic.lean (hunk 10 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:71]: Done.

File: RustLeanModels/Basic.lean (hunk 11 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:86]: > Could be simplified a bit by starting with induction l:

Done

> maybe we could have a separate PR to go through all theorems and make sure we're consistent?

I agree. Let's do it in a separate PR.

File: RustLeanModels/Basic.lean (hunk 13 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:114]: I updated all the induction proofs to make the cases explicit.

File: RustLeanModels/Basic.lean (hunk 12 above)
Comment (zhassan-aws) [reply RustLeanModels/Basic.lean:100]: Updated.

**Comment by BrunoDutertre** [comment]
Works for me.

**Review by BrunoDutertre — APPROVED** [review]

File: RustLeanModels/Basic.lean (hunk 4 above)
Comment (BrunoDutertre) [reply RustLeanModels/Basic.lean]: Maybe for hard proofs but it looks safe here. We can revise later if we see performance issues.
